US04375475
Preparation of 6-{2-[6-[(4-acetoxyphenyl)methoxy]-2,4-dichlorophenyl]ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one.
By following the procedure of Example 1, Step A, but substituting equimolar amounts of 6-[2-(2,4-dichloro-6-hydroxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one and 4-(bromomethyl)phenol acetate for the 4,6-dichlorosalicylaldehyde and benzyl bromide used therein, the title compound is obtained.

reactant | 6-[2-(2,4-dichloro-6-hydroxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC1=C(C(=CC(=C1)Cl)O)CCC1CC(CC(O1)=O)O | C13H14Cl2O4
reactant | 4-(bromomethyl)phenol acetate | C(C)(=O)OC1=CC=C(C=C1)CBr | C9H9BrO2
reactant | 4,6-dichlorosalicylaldehyde | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 6-{2-[6-[(4-acetoxyphenyl)methoxy]-2,4-dichlorophenyl]ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | C(C)(=O)OC1=CC=C(C=C1)COC1=CC(=CC(=C1CCC1CC(CC(O1)=O)O)Cl)Cl | C22H22Cl2O6
